US05055458
A mixture of 5-hydroxymethyl-1,3-dioxane (3.90 g, 33 mmol), N-hydroxyphthalimide (6.46 g, 39.6 mmol) and triphenylphosphine (10.39 g, 39.6 mmol) in tetrahydrofuran (150 ml) was cooled to O° C. and stirred during the addition of diethyl azodicarboxylate (6.24 ml, 39.6 mmol). The solution was then stirred for 16 h at 25° C. and evaporated to dryness. The residue was triturated twice with ether, evaporated to dryness then chromatographed in chloroform/methanol (40:1) to give 5-phthalimidooxymethyl-1,3-dioxane (6.63 g, 76.3%) as a white solid; m.p. 98-106° C.: νmax (KBr) 1780, 1735, 1470, 1400, 1160 cm-1 ; δH (CDCl3) 2.20(1H, m, CH), 4.07(4H, m, OCH2CHCH2O), 4.37(2H, d, J6.88 Hz, CH2ON), 4.86(2H, m, OCH2O), 7.8I(4H, m, C6H4); Found: C,59.31; H, 5.03; N, 5.31%; C13H13NO5 requires: C, 59.31; H, 4.98; N, 5.32%; m/z 264(MH+, 100%).

reactant | 5-hydroxymethyl-1,3-dioxane | 33 mmol, 3.90 g | OCC1COCOC1 | C5H10O3
reactant | N-hydroxyphthalimide | 39.6 mmol, 6.46 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 39.6 mmol, 10.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 39.6 mmol, 6.24 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-phthalimidooxymethyl-1,3-dioxane | 6.63 g, 76.3% | C1(C=2C(C(N1OCC1COCOC1)=O)=CC=CC2)=O | C13H13NO5
